US09079866B2
5-[2′-(1,1-Dioxido-1,2-thiazinan-2-yl)-3-fluorobiphenyl-4-yl]pyrazin-2-amine
Title compound was prepared using conditions analogous to those described in Example 1 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-(2-bromophenyl)-1,2-thiazinane 1,1-dioxide. MS (ESI): mass calcd. for C20H19FN4O2S, 398.12; m/z found, 399.2 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.48-8.43 (m, 1H), 8.38-8.33 (m, 1H), 8.08-8.02 (m, 1H), 7.62 (m, 1H), 7.45-7.39 (m, 4H), 7.34 (dd, J=12.5, 1.7, 1H), 3.76-3.65 (m, 2H), 3.24-3.10 (m, 2H), 3.00-2.89 (m, 2H), 2.35-2.23 (m, 2H), 2.22-2.10 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-(2-bromophenyl)-1,2-thiazinane 1,1-dioxide | BrC1=C(C=CC=C1)N1S(CCCC1)(=O)=O | C10H12BrNO2S
product | 5-[2′-(1,1-Dioxido-1,2-thiazinan-2-yl)-3-fluorobiphenyl-4-yl]pyrazin-2-amine | O=S1(N(CCCC1)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F)=O | C20H19FN4O2S
